US06605620B1
Synthesis of 1-(tert-Butoxycarbonyl)-4-[N-(4-methoxyphenyl)-N-[[2-(2-methoxyphenyl)pyridin-4-yl]methyl]amino]piperidine
4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine (306 mg) and 4-chloromethyl-2-(2-methoxyphenyl)pyridine (234 mg) were condensed in the same manner as described in Example 9 to give the title compound.

reactant | 4-(p-Anisidino)-1-(tert-butoxycarbonyl)piperidine | 306 mg | COC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O3
reactant | 4-chloromethyl-2-(2-methoxyphenyl)pyridine | 234 mg | ClCC1=CC(=NC=C1)C1=C(C=CC=C1)OC | C13H12ClNO
product | 1-(tert-Butoxycarbonyl)-4-[N-(4-methoxyphenyl)-N-[[2-(2-methoxyphenyl)pyridin-4-yl]methyl]amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=CC(=NC=C1)C1=C(C=CC=C1)OC)C1=CC=C(C=C1)OC | C30H37N3O4
